US06468995B1
To a solution of diphenylmethyl 7β-amino-3-[(1,2,3-thiadiazol-4-yl)methylthio]-3-cephem-4-carboxylate (4.68 g, 9.42 m mol) in formic acid (18.7 ml) was added conc. HCl (3.93 ml) at room temperature and the mixture was stirred at the same temperature for 1.5 hours. The mixture was poured into a cooled mixture of acetone (140 ml) and ethyl acetate (280 ml) and the precipitates were collected by filtration, washed with acetone and dried in vacuo to give 7β-amino-3-[(1,2,3-thiadiazol-4-yl)methylthio]-3-cephem-4-carboxylic acid hydrochloride (2.63 g).

reactant | diphenylmethyl 7β-amino-3-[(1,2,3-thiadiazol-4-yl)methylthio]-3-cephem-4-carboxylate | 4.68 g | N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2N=NSC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H20N4O3S3
reactant | HCl | 3.93 ml | Cl | ClH
reactant | acetone | 140 ml | CC(=O)C | C3H6O
reactant | ethyl acetate | 280 ml | C(C)(=O)OCC | C4H8O2
solvent | formic acid | 18.7 ml | C(=O)O | CH2O2
product | 7β-amino-3-[(1,2,3-thiadiazol-4-yl)methylthio]-3-cephem-4-carboxylic acid hydrochloride | 2.63 g | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2N=NSC2)C(=O)O)C1=O | InChI=1S/C10H10N4O3S3.ClH/c11-6-8(15)14-7(10(16)17)5(3-19-9(6)14)18-1-4-2-20-13-12-4;/h2,6,9H,1,3,11H2,(H,16,17);1H/t6-,9-;/m1./s1
